US04275065
3-Hydroxy-2-phenyl-5,6,7,8-tetrahydrothiazolo[2,3-b]benzothiazolium bromide
9.0 g. (0.053 moles) 2-mercapto-4,5,6,7-tetrahydrobenzothiazole and 10.75 g. (0.053 moles) α-bromophenylacetic acid are dissolved in 500 ml. of acetone, to which is further added 50 ml. each of glacial acetic acid and acetic anhydride. The mixture is heated in an open flask and the volume reduced to 100 ml. The precipitated solid is collected. The solid weighs 13 g. (67%) and melts at 233°-235° C.(dec.).

reactant | 2-mercapto-4,5,6,7-tetrahydrobenzothiazole | 0.053 moles | SC=1SC2=C(N1)CCCC2 | C7H9NS2
reactant | α-bromophenylacetic acid | 0.053 moles | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | acetone | CC(=O)C | C3H6O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Hydroxy-2-phenyl-5,6,7,8-tetrahydrothiazolo[2,3-b]benzothiazolium bromide | [Br-].OC1=C(SC=2SC3=C([N+]21)CCCC3)C3=CC=CC=C3 | InChI=1S/C15H13NOS2.BrH/c17-14-13(10-6-2-1-3-7-10)19-15-16(14)11-8-4-5-9-12(11)18-15;/h1-3,6-7H,4-5,8-9H2;1H
